US07618976B2
In a 0.25 L reactor equipped with mechanical stirrer and thermometer, 100 ml of acetone was added. The reactor was maintained at room temperature (22° C.). 5.35 g of N-methyl piperazine (1.1 equivalents) followed by 4.16 g of NaOH solution (47%, 1 equivalent) were added. 20 g of 1-[[3-(4,7-Dihydro-1-methyl-7-oxo-3-propyl-1H-pyrazolo[4,3-d]pyrimidin-5-yl)-4-ethoxyphenyl] sulfonyl chloride was added portion-wise (5 g each). The reaction mixture was kept at room temperature with mixing for 1 hour. The reaction mixture was kept at 5° C. for 2 hours. During that period, sildenafil base precipitated. After filtration, the cake was washed with water (50 ml). 29.24 g wet sildenafil base was obtained.

reactant | N-methyl piperazine | 5.35 g, 1.1 equivalents | CN1CCNCC1 | C5H12N2
reactant | NaOH | 4.16 g, 1 equivalent | [OH-].[Na+]
reactant | [3-(4,7-Dihydro-1-methyl-7-oxo-3-propyl-1H-pyrazolo[4,3-d]pyrimidin-5-yl)-4-ethoxyphenyl] sulfonyl chloride | CN1N=C(C=2NC(=NC(C21)=O)C=2C=C(C=CC2OCC)S(=O)(=O)Cl)CCC | C17H19ClN4O4S
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | sildenafil | 29.24 g | CCCC=1C2=C(N(N1)C)C(=O)NC(=N2)C=3C=C(C=CC3OCC)S(=O)(=O)N4CCN(CC4)C | C22H30N6O4S
